US06303816B1
2-Fluorobenzeneboronic Acid
A solution of 50 g (285.6 mmol) of 2-fluorobromobenzene in 400 mL of tetrahydrofuran was cooled to −78° C. and 200 mL (320.0 mmol) of 1.6M n-Butyllithium was added via a cannula. The mixture was stirred at −78° C. for 60 minutes, then 98.9 mL (428.4 mmol) of triisopropyl borate was added via a cannula and stirring was continued for 60 minutes. The cooling bath was removed and the mixture was stirred at ambient temperature for 1.5 hours, then 150 mL of 6N hydrochloric acid was added and stirring was continued for 1.5 hours. To the mixture was added 100 mL of brine, and then the organic layer was separated and the aqueous layer was extracted three times with 30 mL each of ether. The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was recrystallized from water to afford 25.2 g (63%) of the title compound.

reactant | 2-fluorobromobenzene | 285.6 mmol, 50 g | FC1=C(C=CC=C1)Br | C6H4BrF
reactant | n-Butyllithium | 320.0 mmol, 1.6M, 200 mL | C(CCC)[Li]
reactant | triisopropyl borate | 428.4 mmol, 98.9 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 2-Fluorobenzeneboronic Acid | 25.2 g, 63% | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
